US09403798B2
4-(4-Hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one
6-Chloro-4-[4-(4-chlorophenyl)-4-hydroxy-piperidin-1-yl]-1,3,5-triazin-2(1H)-one (341 mg, 1.00 mmol) synthesized in Reference Synthesis Example 21 and palladium hydroxide-activated carbon catalyst (34.1 mg) were used to obtain a mixture of compounds of Reference Synthesis Example 22a and Reference Synthesis Example 22b being the title compounds (424 mg, quantitative) by synthesis in a similar manner to Reference Synthesis Example 3.

reactant | 6-Chloro-4-[4-(4-chlorophenyl)-4-hydroxy-piperidin-1-yl]-1,3,5-triazin-2(1H)-one | 1.00 mmol, 341 mg | ClC1=NC(=NC(N1)=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C14H14Cl2N4O2
catalyst | palladium hydroxide | 34.1 mg | [OH-].[Pd+2].[OH-]
product | 4-(4-Hydroxy-4-phenylpiperidin-1-yl)-1,3,5-triazin-2(1H)-one | OC1(CCN(CC1)C1=NC(NC=N1)=O)C1=CC=CC=C1 | C14H16N4O2
